US06395773B1
Production of 8-hydroxy-2-methylnaphtho[2,3-b]furan-4,9-dione (Compound B)
Aluminum chloride (2.5 g) and 3-hydroxyphthalic anhydride (1 g) were added to nitrobenzene (5 ml), to which was added 2-acetyl-5-methylfuran (0.7 g), dropwise, and heated at 100° C. overnight.

reactant | Aluminum chloride | 2.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-hydroxyphthalic anhydride | 1 g | OC1=C2C(C(=O)OC2=O)=CC=C1 | C8H4O4
reactant | nitrobenzene | 5 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 2-acetyl-5-methylfuran | 0.7 g | C(C)(=O)C=1OC(=CC1)C | C7H8O2
product | 8-hydroxy-2-methylnaphtho[2,3-b]furan-4,9-dione | OC=1C=CC=C2C(C3=C(OC(=C3)C)C(C12)=O)=O | C13H8O4
